US05500417
2-Fluorobenzylphosphonic acid, dimethyl ester
Following the procedure of Compound 11, 2-fluorobenzyl bromide is reacted with trimethylphosphite.

reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | 2-Fluorobenzylphosphonic acid, dimethyl ester | FC1=C(CP(OC)(OC)=O)C=CC=C1 | C9H12FO3P
